### PR TITLE
[Merged by Bors] - feat: port   Algebra.GroupPower.Order

### PR DESCRIPTION
**Pull request by siddhartha-gadgil**
from fc2ed6f838ce7c9b7c7171e58d78eaf7b438fb0e

have commented out `mono` annotations as the corresponding tactic is not yet implemented.

### CODE REVIEW

File: Mathlib/Algebra/GroupPower/Order.lean [hunk 1]
```diff
@@ -0,0 +1,715 @@
...
+import Mathlib.Algebra.GroupPower.Ring
+import Mathlib.Data.Set.Intervals.Basic
+import Mathlib.Data.Nat.Basic
+import Mathlib.Tactic.Positivity.Basic
+import Mathlib.Tactic.Linarith.Lemmas
+
+/-!
+# Lemmas about the interaction of power operations with order
+
+Note that some lemmas are in `algebra/group_power/lemmas.lean` as they import files which
```
Comment (ChrisHughes24) [inline Mathlib/Algebra/GroupPower/Order.lean:17]:
```suggestion
Note that some lemmas are in `Algebra/GroupPower/Lemmas.lean` as they import files which
```

File: Mathlib/Algebra/GroupPower/Order.lean [hunk 2]
```diff
@@ -0,0 +1,715 @@
...
+@[to_additive nsmul_lt_nsmul]
+theorem pow_lt_pow' [CovariantClass M M (· * ·) (· < ·)] {a : M} {n m : ℕ} (ha : 1 < a)
+    (h : n < m) : a ^ n < a ^ m := by
+  rcases Nat.le.dest h with ⟨k, rfl⟩; clear h
+  rw [pow_add, pow_succ', mul_assoc, ← pow_succ]
+  exact lt_mul_of_one_lt_right' _ (one_lt_pow' ha k.succ_ne_zero)
+#align pow_lt_pow' pow_lt_pow'
+
+@[to_additive nsmul_strict_mono_right]
+theorem pow_strict_mono_left [CovariantClass M M (· * ·) (· < ·)] {a : M} (ha : 1 < a) :
```
Comment (ChrisHughes24) [inline Mathlib/Algebra/GroupPower/Order.lean:103]:
```suggestion
theorem pow_strictMono_left [CovariantClass M M (· * ·) (· < ·)] {a : M} (ha : 1 < a) :
```
Also add an #align for the `to_additive` version

File: Mathlib/Algebra/GroupPower/Order.lean [hunk 3]
```diff
@@ -0,0 +1,715 @@
...
+
+/-!
+# Lemmas about the interaction of power operations with order
+
+Note that some lemmas are in `Algebra/GroupPower/Lemmas.lean` as they import files which
+depend on this file.
+-/
+
+
+set_option linter.deprecated false
```
Comment (Ruben-VandeVelde) [inline Mathlib/Algebra/GroupPower/Order.lean:22]: Does this need to cover the whole file?

File: Mathlib/Algebra/GroupPower/Order.lean [hunk 4]
```diff
@@ -0,0 +1,715 @@
...
+
+section Preorder
+
+variable [Preorder M]
+
+section Left
+
+variable [CovariantClass M M (· * ·) (· ≤ ·)] {x : M}
+
+-- `mono` attribute
```
Comment (Ruben-VandeVelde) [inline Mathlib/Algebra/GroupPower/Order.lean:40]:
```suggestion
-- Porting note: removed `mono` attribute
```

File: Mathlib/Algebra/GroupPower/Order.lean [hunk 5]
```diff
@@ -0,0 +1,715 @@
...
+#align pow_lt_pow_iff pow_lt_pow_iff
+
+theorem pow_le_pow_iff (h : 1 < a) : a ^ n ≤ a ^ m ↔ n ≤ m :=
+  (strictMono_pow h).le_iff_le
+#align pow_le_pow_iff pow_le_pow_iff
+
+theorem strict_anti_pow (h₀ : 0 < a) (h₁ : a < 1) : StrictAnti fun n : ℕ => a ^ n :=
+  strictAnti_nat_of_succ_lt fun n => by
+    simpa only [pow_succ, one_mul] using mul_lt_mul h₁ le_rfl (pow_pos h₀ n) zero_le_one
+#align strict_anti_pow strict_anti_pow
```
Comment (Ruben-VandeVelde) [inline Mathlib/Algebra/GroupPower/Order.lean:398]:
```suggestion
theorem strictAnti_pow (h₀ : 0 < a) (h₁ : a < 1) : StrictAnti fun n : ℕ => a ^ n :=
  strictAnti_nat_of_succ_lt fun n => by
    simpa only [pow_succ, one_mul] using mul_lt_mul h₁ le_rfl (pow_pos h₀ n) zero_le_one
#align strict_anti_pow strictAnti_pow
```

**Review by Ruben-VandeVelde — APPROVED** [review]

**Comment by semorrison** [comment]
> have commented out `mono` annotations as the corresponding tactic is not yet implemented.

Please add a comment with the phrase "Porting note", e.g. "-- Porting note: mono not implemented yet", in the source code, so we can identify these afterwards.

**Comment by semorrison** [comment]
bors merge
